US07572820B2
2-Methyl-1-(1,3-thiazol-4-ylmethyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 using 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile and 4-(chloromethyl)-1,3-thiazole: 1H NMR (400 MHz, CDCl3) δ 8.80 (d, J=2.0 Hz, 1H), 7.50 (m, 2H), 6.75 (s, 1H), 6.64 (s, 1H), 5.50 (s, 2H), 2.53 (s, 3H); MS (ES) m/z 322 (M+1).

reactant | 2-methyl-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC=1NC2=CC=C(C(=C2C1)C(F)(F)F)C#N | C11H7F3N2
reactant | 4-(chloromethyl)-1,3-thiazole | ClCC=1N=CSC1 | C4H4ClNS
product | 2-Methyl-1-(1,3-thiazol-4-ylmethyl)-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC=1N(C2=CC=C(C(=C2C1)C(F)(F)F)C#N)CC=1N=CSC1 | C15H10F3N3S
